US09145413B2
a. 2-(5-Fluoropyridin-2-yl)-N,N-di(propan-2-yl)hydrazinecarboxamide (Intermediate 103a)
To a solution of (5-fluoro-pyridin-2-yl)-hydrazine (for reference procedure see WO2010/022076; 200 mg, 1.57 mmol) in DCM (15 mL) was added triethylamine (328 μL, 2.35 mmol) followed by N,N-diisopropylcarbamoyl chloride (282 mg, 1.73 mmol). The reaction mixture was heated at 45° C. for 4 h then poured into water and extracted with DCM (×3). The combined organic layers were washed with brine, dried (MgSO4) and concentrated in vacuo. The resultant residue was purified by FCC on silica, using a gradient of 0-100% EtOAc in cyclohexane, to afford the title compound (200 mg, 50%). 1H NMR (400 MHz, CDCl3): 1.30 (12H, d, J=6.8 Hz), 3.80-4.03 (2H, m), 6.17 (1H, s), 6.53 (1H, s), 6.67-6.81 (1H, m), 7.24-7.36-(1H, m), 8.02 (1H, d, J=3.0 Hz).

reactant | (5-fluoro-pyridin-2-yl)-hydrazine | FC=1C=CC(=NC1)NN | C5H6FN3
reactant | triethylamine | 2.35 mmol, 328 μL | C(C)N(CC)CC | C6H15N
reactant | N,N-diisopropylcarbamoyl chloride | 1.73 mmol, 282 mg | C(C)(C)N(C(=O)Cl)C(C)C | C7H14ClNO
reactant | water | O | H2O
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
product | 2-(5-Fluoropyridin-2-yl)-N,N-di(propan-2-yl)hydrazinecarboxamide | 200 mg, 50% | FC=1C=CC(=NC1)NNC(=O)N(C(C)C)C(C)C | C12H19FN4O
